US06489476B1
A solution of 2-fluoro-5-bromonitrobenzene (1 mmole) in DMF (5 mL) was cooled to 0° C., and treated with a solution of freshly prepared sodium salt of diethylhydroxymethylphosphonate (1.2 mmole) in DMF (5 mL). The mixture was stirred at room temperature for 16 h. Evaporation, extraction and chromatography provided 2-diethylphosphonomethyloxy-5-bromonitrobenzene.

reactant | 2-fluoro-5-bromonitrobenzene | 1 mmole | FC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3BrFNO2
reactant | sodium | [Na] | Na
reactant | diethylhydroxymethylphosphonate | 1.2 mmole | C(C)OP(OCC)(=O)CO | C5H13O4P
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-diethylphosphonomethyloxy-5-bromonitrobenzene | C(C)OP(=O)(OCC)COC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C11H15BrNO6P
